US06235731B1
2) Synthesis of N-[3-(4-benzoylpiperazin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride
To a solution of 0.715 g (1.60 mmol.) of N-[3-(4-benzoylpiperazin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (10 ml) was added, at room temperature, 10 ml (120 mmol.) of 12N hydrochloric acid. The mixture was stirred for 16 hours, which was concentrated under reduced pressure. To the concentrate were added ethanol and diethyl ether. The resulting crystals were collected by filtration and washed with ethanol and diethyl ether to give the object compound as orange crystals. The yield was 0.715 g (86%).

reactant | N-[3-(4-benzoylpiperazin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 1.60 mmol, 0.715 g | C(C1=CC=CC=C1)(=O)N1CCN(CC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C24H25N5O2S
reactant | hydrochloric acid | 120 mmol, 12N, 10 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-[3-(4-benzoylpiperazin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)(=O)N1CCN(CC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C24H25N5O2S.2ClH/c30-23(20-16-19-17-26-21-8-4-9-22(32-20)29(19)21)25-10-5-11-27-12-14-28(15-13-27)24(31)18-6-2-1-3-7-18;;/h1-4,6-9,16-17H,5,10-15H2,(H,25,30);2*1H
